US07244843B2
To (±)-1,3,4,10b-tetrahydro-1-isopropyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (0.151 g, 0.51 mmol) was added di-tert-butyl dicarbonate (0.59 g, 2.7 mmol), and the mixture was warmed to 55° C. To this mixture was added 4-(dimethylamino)-pyridine (0.12 g, 1.0 mmol). After 5 min, the orange brown solution was directly purified by flash column chromatography (SiO2, 0–50% ethyl acetate in hexanes) to afford N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-1-isopropyl-7trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (0.089 g, 44%) as a yellow solid. MS (ESI) 399 (M+H).

reactant | (±)-1,3,4,10b-tetrahydro-1-isopropyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.51 mmol, 0.151 g | C(C)(C)C1NCCN2C1C1=CC=CC(=C1C2=O)C(F)(F)F | C15H17F3N2O
reactant | di-tert-butyl dicarbonate | 2.7 mmol, 0.59 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-(dimethylamino)-pyridine | 1.0 mmol, 0.12 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-1-isopropyl-7trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.089 g, 44% | C(C)(C)(C)OC(=O)N1C(C2N(C(C3=C(C=CC=C23)C(F)(F)F)=O)CC1)C(C)C | C20H25F3N2O3
